US06380218B1
2-(4-Fluoro-phenoxy)-N-(4-methanesulfonylamino-benzyl)-nicotinamide
To a solution of N-(4-Amino-benzyl)-2-(4-fluoro-phenoxy)-nicotinamide (0.150 grams, 0.445 mmole) and triethyl amine (0.089 g, 0.89 mmole) in methylene chloride (5 ml) was added methanesulfonic anhydride (0.100 grams, 0.578 mmole) and stirred over night. The mixture was concentrated to dryness, dissolved in methanol (10 ml) and 1 N sodium hydroxide (15 ml) and extracted with ethyl acetate. The product was purified by chromatography on silica gel eluting with 5% methanol methylene chloride. Recrystalization gave white crystals. (0.043 g). M.P. 107-109° C.; Anal. calcd. for C20H18N3O4SF: C, 57.82; H, 4.37; N, 10.11. Found: C, 57.88; H, 4.39; N, 9.78.

reactant | N-(4-Amino-benzyl)-2-(4-fluoro-phenoxy)-nicotinamide | 0.445 mmole, 0.150 grams | NC1=CC=C(CNC(C2=C(N=CC=C2)OC2=CC=C(C=C2)F)=O)C=C1 | C19H16FN3O2
reactant | triethyl amine | 0.89 mmole, 0.089 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonic anhydride | 0.578 mmole, 0.100 grams | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | 2-(4-Fluoro-phenoxy)-N-(4-methanesulfonylamino-benzyl)-nicotinamide | FC1=CC=C(OC2=C(C(=O)NCC3=CC=C(C=C3)NS(=O)(=O)C)C=CC=N2)C=C1 | C20H18FN3O4S
